* C:\Users\marim\Desktop\summer 2024 projects\internship 2024\tasks\week2\6x6_grid.asc
R§H11 N12 N11 1k
R§H12 N13 N12 1k
R§H13 N14 N13 1k
R§V11 N21 N11 1k
R§V12 N22 N12 1k
R§V13 N23 N13 1k
R§V14 N24 N14 1k
R§V21 N31 N21 1k
R§H31 N31 N32 1k
R§H32 N32 N33 1k
R§H33 N33 N34 1k
R§H21 N22 N21 1k
R§H22 N23 N22 1K
R§H23 N24 N23 1k
R§V22 N32 N22 1k
R§V23 N33 N23 1k
R§V24 N34 N24 1k
R§V32 N42 N32 1k
R§V34 N44 N34 1k
R§H41 N42 N41 1k
R§H42 N33 N42 1k
R§H43 N44 N33 1K
V1 N11 0 10
R§V31 N41 N31 1k
R§V41 N51 N41 1k
R§V51 N61 N51 1k
R§V42 N52 N42 1k
R§V52 N62 N52 1k
R§V43 N53 N33 1k
R§V53 N63 N53 1k
R§V44 N54 N44 1k
R§V54 N64 N54 1k
R§H51 N52 N51 1K
R§H52 N53 N52 1K
R§H53 N54 N53 1K
R§H61 N62 N61 1K
R§H62 N63 N62 1K
R§H63 N64 N63 1K
R§H64 N65 N64 1K
R§H54 N55 N54 1K
R§H34 N35 N34 1K
R§H24 N25 N24 1K
R§H14 N15 N14 1K
R§V15 N25 N15 1K
R§V25 N35 N25 1K
R§V35 N44 N35 1K
R§V45 N55 N44 1K
R§V55 N65 N55 1K
R§H65 N65 0 1K
R§H55 N55 N56 1K
R§H45 N44 N46 1K
R§H35 N35 N36 1K
R§H25 N25 N26 1K
R§H15 N15 N16 1K
R§V16 N26 N16 1K
R§V26 N36 N26 1K
R§V36 N46 N36 1K
R§V46 N56 N46 1K
R§V56 0 N56 1K
.tran 1
.backanno
.end
